US08703758B2
I-B) N-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide
To a solution of (2S)-1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-amine monohydrochloride (17.6 g) in pyridine (85 mL) was added acetic anhydride (12.6 mL) at room temperature, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with water, 1M hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was recrystallized from hexane/ethyl acetate to give the title compound (12.0 g) as white crystals.

reactant | (2S)-1-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)propan-2-amine monohydrochloride | 17.6 g | Cl.C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)N)C=C1
reactant | acetic anhydride | 12.6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 85 mL | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | N-[(1S)-2-({1-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]acetamide | 12.0 g | C1(CC1)COC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(C)=O)C=C1 | C21H29N3O4
